US07115750B1
Sodium borohydride (931 mg, 24.6 mmol) was added to a methanol solution (60 ml) of 6-acetamido-1-tetralone (5.00 g, 24.6 mmol) under ice-cooling, which was stirred at room temperature for 1 hour. Ethyl acetate was added to the reaction mixture, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then, the solvent was distilled out under reduced pressure. p-Toluenesulfonic acid (468 mg, 2.46 mmol) and toluene (120 ml) were added to the obtained alcohol form (5.05 g, 24.6 mmol), which was stirred at 100° C. for 1 hour. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was purified by silica gel column chromatography (development solvent; hexane:ethyl acetate=1:1), and powdered with hexane to give N-(7,8-dihydro-2-naphthalenyl)acetamide (3.17 g).

reactant | Sodium borohydride | 24.6 mmol, 931 mg | [BH4-].[Na+]
reactant | methanol | 60 ml | CO | CH4O
reactant | 6-acetamido-1-tetralone | 24.6 mmol, 5.00 g | C(C)(=O)NC=1C=C2CCCC(C2=CC1)=O | C12H13NO2
reactant | p-Toluenesulfonic acid | 2.46 mmol, 468 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(7,8-dihydro-2-naphthalenyl)acetamide | 3.17 g | C1=C(C=CC=2C=CCCC12)NC(C)=O | C12H13NO
